US09034866B2
Methyl 9-bromo-4-oxo-[1]benzoxepino[5,4-d]thiazole-2-carboxylate (0.37 g) was subjected to General Procedure 0 to afford 280 mg (75%) of methyl 9-bromo-4-hydroxy-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate. Methyl 9-bromo-4-hydroxy-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate (128 mg) was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford methyl 4-hydroxy-9-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate which was directed subjected to General Procedure M to afford 25 mg and 7.9 mg (26% overall yield) after reverse phase purification then chiral separation. The absolute stereochemistry at the 4-hydroxyl substitution position for each isomer was not determined.

reactant | Methyl 9-bromo-4-hydroxy-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate | 128 mg | BrC=1C=CC2=C(C1)C=1N=C(SC1C(CO2)O)C(=O)OC | C13H10BrNO4S
reactant | (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | methyl 4-hydroxy-9-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate | OC1COC2=C(C=C(C=C2)C#C[C@]2(C(N(CC2)C)=O)O)C=2N=C(SC21)C(=O)OC | C20H18N2O6S
